US03972926
Using the procedure of Example 5 benzyltriphenylphosphonium chloride (0.1 mole) and 4-nitrobenzaldehyde (0.1 mole) are reacted to give 4-nitrostilbene. The 4-nitrostilbene is reduced with palladium on charcoal as the catalyst to 4-(2'-phenethyl)aniline, m.p. 46°-50° C.

reactant | 4-nitrobenzaldehyde | 0.1 mole | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
catalyst | benzyltriphenylphosphonium chloride | 0.1 mole | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-nitrostilbene | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H11NO2
